US08106090B2
(R,R)-1-Oxiranyl-2-(2,5-difluorophenyl)ethylcarbamic acid tert-butyl ester
To a stirred solution of (R,R)-1-(2,5-difluorophenylmethyl)-3-chloro-2-hydroxypropylcarbamic acid tert-butyl ester (2.2 g, 6.6 mmol) in ethanol (100 mL) at 0° C. is added a 0.5M solution of KOH in ethanol (15.7 mL, 7.9 mmol, 1.2 eq) and is stirred for 90 min. The reaction mixture is concentrated under reduced pressure and the residue is redissolved in ethyl acetate. The solution is washed sequentially with saturated ammonium chloride (aq), water and brine, then dried over Na2SO4 and concentrated under reduced pressure to afford the title compound as a white solid (1.86 g, 6.2 mmol).

reactant | (R,R)-1-(2,5-difluorophenylmethyl)-3-chloro-2-hydroxypropylcarbamic acid tert-butyl ester | 6.6 mmol, 2.2 g | C(C)(C)(C)OC(N[C@@H]([C@H](CCl)O)CC1=C(C=CC(=C1)F)F)=O | C15H20ClF2NO3
reactant | KOH | [OH-].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 7.9 mmol, 15.7 mL, 1.2 eq | C(C)O | C2H6O
product | (R,R)-1-Oxiranyl-2-(2,5-difluorophenyl)ethylcarbamic acid tert-butyl ester | 6.2 mmol, 1.86 g | C(C)(C)(C)OC(N[C@H](CC1=C(C=CC(=C1)F)F)[C@H]1OC1)=O | C15H19F2NO3
